US07414050B2
c) 4-(4-Nitro-phenyl)-[1,2,6]oxadithiane 2,2,6,6-tetraoxide
2-(4-Nitro-phenyl)-propane-1,3-disulfonic acid (as prepared in the previous step) is treated with POCl3 as described in Chem. Berichte., 91, 1512-15 (1958) and the title compound is isolated and used in the following step without further purification.

reactant | 2-(4-Nitro-phenyl)-propane-1,3-disulfonic acid | [N+](=O)([O-])C1=CC=C(C=C1)C(CS(=O)(=O)O)CS(=O)(=O)O | C9H11NO8S2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(4-Nitro-phenyl)-[1,2,6]oxadithiane 2,2,6,6-tetraoxide | [N+](=O)([O-])C1=CC=C(C=C1)C1CS(OS(C1)(=O)=O)(=O)=O | C9H9NO7S2
